US07241785B2
A mixture of (3-benzyloxy-1-phenyl-1H-pyrazol-5-yl)methanol (11.20 g), active manganese dioxide (30.00 g) and tetrahydrofuran (300 ml) was stirred overnight at room temperature. Insoluble material was filtered off and the filtrate was concentrated. The residue was subjected to silica gel column chromatography, and 3-benzyloxy-1-phenyl-1H-pyrazole-5-carbaldehyde (10.10 g, yield 91%) was obtained as a pale-yellow oil from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | (3-benzyloxy-1-phenyl-1H-pyrazol-5-yl)methanol | 11.20 g | C(C1=CC=CC=C1)OC1=NN(C(=C1)CO)C1=CC=CC=C1 | C17H16N2O2
catalyst | manganese dioxide | 30.00 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-benzyloxy-1-phenyl-1H-pyrazole-5-carbaldehyde | 10.10 g, yield 91% | C(C1=CC=CC=C1)OC1=NN(C(=C1)C=O)C1=CC=CC=C1 | C17H14N2O2
